US08431695B2
Intermediate T T: Preparation of 7-azepan-4-yl-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride
To a solution of tert-butyl 4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]azepane-1-carboxylate in MeOH (10 mL) was added 4M HCl in dioxane (5 mL). The mixture was stirred at rt for 5 h. The mixture was concentrated to dryness to afford 924 mg (100%) of the desired product, which contained trace impurities. LC-MS [M+H]+=438.28, RT=2.10 min.

reactant | tert-butyl 4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]azepane-1-carboxylate | NC1=NC=NN2C1=C(C=C2C2CCN(CCC2)C(=O)OC(C)(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C31H35N7O2
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 7-azepan-4-yl-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride | 924 mg, 100% | Cl.N1CCC(CCC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | InChI=1S/C26H27N7.ClH/c27-26-25-22(14-24(33(25)30-17-29-26)19-7-4-11-28-12-10-19)20-8-9-21-16-32(31-23(21)13-20)15-18-5-2-1-3-6-18;/h1-3,5-6,8-9,13-14,16-17,19,28H,4,7,10-12,15H2,(H2,27,29,30);1H
